US07105526B2
(2) Preparation of 2,3-diamino-6-(2-fluorophenyl)pyridine
To a solution of 6-amino-2-bromo-5-nitropyridine (2.0 g, 9.2 mmol) and 2-fluorophenylboronic acid (2.57 g, 18 mmol) in dimethoxyethane (60 mL) were added 2M aqueous sodium carbonate solution (18 mL) and tetrakistriphenylphosphine palladium(0) (106 mg, 0.092 mmol). The mixture was stirred at 105° C. for 16 hours under a nitrogen atmosphere. After the reaction mixture was cooled to room temperature, it was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was dissolved in a mixture of ethyl acetate (30 mL) and methanol (30 mL). To the solution was added 10% palladium carbon (200 mg), and the mixture was stirred at room temperature for 14 hours under a hydrogen atmosphere. After removal of the palladium catalyst by filtration, the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to give the title compound (1.87 g, 100%) as a reddish brown oil.

reactant | 6-amino-2-bromo-5-nitropyridine | 9.2 mmol, 2.0 g | NC1=C(C=CC(=N1)Br)[N+](=O)[O-] | C5H4BrN3O2
reactant | 2-fluorophenylboronic acid | 18 mmol, 2.57 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 18 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 60 mL | C(OC)COC | C4H10O2
product | 2,3-diamino-6-(2-fluorophenyl)pyridine | 1.87 g, 100% | NC1=NC(=CC=C1N)C1=C(C=CC=C1)F | C11H10FN3
